US09326987B2
N-[1-(Phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-2-furancarboxamide
2-Furancarbonyl chloride (0.199 ml) was added to a stirred solution of 1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (580 mg) in pyridine (10 ml) at RT. The mixture was stirred for 1 h. After this time, the mixture was acidified with 5 N HCl and extracted into ether (2×40 ml). The combined extracts were washed with aq sodium bicarbonate (20 ml), water (50 ml), dried (frit) and evaporated to dryness. The residual oil was purified on a 20 g Si isolute cartridge using ether as the eluent. The appropriate fractions were evaporated to give the title compound, 510 mg as a colourless solid.

reactant | 2-Furancarbonyl chloride | 0.199 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 580 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC=2C(=CC(=CC12)[Sn](C)(C)C)N
reactant | HCl | 5 N | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[1-(Phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-2-furancarboxamide | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C=C12)[Sn](C)(C)C)NC(=O)C=1OC=CC1 | InChI=1S/C18H12N3O4S.3CH3.Sn/c22-18(17-10-5-11-25-17)20-15-8-4-9-16-14(15)12-19-21(16)26(23,24)13-6-2-1-3-7-13;;;;/h1-3,5-12H,(H,20,22);3*1H3;
